Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is an ___ year-old female transferred from
___ after a fall from 3 steps approximately 2
hours ago.  Per report, she was carrying her laundry up the
stairs and was on the ___ step when she fell posteriorly and hit
her occiput.  She sustained a 7cm laceration which was sutured 
at
___ ED.  She received a head CT at ___ 
with
reports of bilateral occiput SDH and was then transferred to 
___ for further neurosurgical workup. 

 
Past Medical History:
thyroidectomy, mastectomy, cyst on spine, and arthritis
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAM:
O: T: 97.7   BP: 123/64  HR:83  RR:16  O2Sats:97% on 2LNC
Gen: WD/WN, comfortable, NAD.
HEENT: PERLA, EOMs intact, left forehead abrasion, nasal bridge
abrasion, left maxillary abrasion
Neck: Supple.
Lungs: CTA bilaterally, left posterior shoulder abrasion
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to 3-5mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, proprioception, pinprick and
vibration bilaterally.

Reflexes: B T Br Pa Ac
Right 2+ 2+ 2+ 2+ 2+ 
Left 2+ 2+ 2+ 2+ 2+

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

Physical exam on discharge:
A&OX3
PERRL
face symmetrical
tongue midline
no pronator drift
Motor   B T D IP QUAD HAM AT ___
      L ___ 5   5    ___    5
      R ___ 5   5    ___    5

 
Pertinent Results:
CT of head ___:
*2mm R frontal acute SDH, 6MM acute L SDH
*L frontal and temporal SAH
*Bilateral parafalcine SDH
*No interventricular hemorrhage, midlines shift, or herniation.
*R posterior subgaleal hematoma with laceration, no fx.

CT c-spine ___
No dislocation or fracture. Dengenerative chages at C5/6 and 
C6/7.
 
Brief Hospital Course:
Patient was transferred to ___ s/p fall with CT of the heading 
showing bilateral SDH. She was also found to have a SAH. 
Neurologically, patient has been stable, repeat CT scan of the 
head was also stable with initial scan. On ___, patient was 
found to have a fever of 101.2. She was pancultured. Uranialysis 
was negative and blood cultures are pending. Patient will be 
discharged today, blood culture results pending at time of 
discharge and patient is nonfebrible, follow up as outpatient. 
 
Medications on Admission:
Fosamax, thyroid med, Sudafed for post nasal drip

 
Discharge Medications:
1. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
2. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Hydralazine 20 mg/mL Solution Sig: One (1)  Injection Q4H 
(every 4 hours) as needed for SBP >160.  
4. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day).
Disp:*90 Capsule(s)* Refills:*2*
5. Tylenol ___ mg Tablet Sig: ___ Tablets PO Q6H PRN as needed 
for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Traumatic brain injury, right SDH, left SDH, left SAH, SDH along 
falx

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
General Instructions

•Take your medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Do not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. for one month. 
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed and follow up with laboratory 
blood drawing in one week.  This can be drawn at your PCP’s 
office, but please have the results faxed to ___.
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.
 
Followup Instructions:
___